US08791139B2
Synthesis of ethyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylate
1.24 g (2.04 mmol) of 5-(trifluoromethyl)-2H-tetrazole and 348 mg (2.52 mmol) of potassium carbonate were initially charged in 15 ml of acetonitrile and stirred at RT for 15 min. 693 mg (1.57 mmol) of ethyl 3-(bromoacetyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate, dissolved in 5 ml of acetonitrile, were added, and the reaction mixture was stirred at 70° C. for 5 min. Half of the solvent was distilled off, the residue was diluted with 80 ml of water and the mixture was extracted twice with dichloromethane. The combined organic phases are washed with sodium chloride solution, dried over sodium sulphate and concentrated. The desired product was isolated by chromatographic purification.

reactant | 5-(trifluoromethyl)-2H-tetrazole | 2.04 mmol, 1.24 g | FC(C=1N=NNN1)(F)F | C2HF3N4
reactant | potassium carbonate | 2.52 mmol, 348 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-(bromoacetyl)-1-(3-chloropyridin-2-yl)-1H-pyrazole-5-carboxylate | 1.57 mmol, 693 mg | BrCC(=O)C1=NN(C(=C1)C(=O)OCC)C1=NC=CC=C1Cl | C13H11BrClN3O3
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | ethyl 1-(3-chloropyridin-2-yl)-3-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]acetyl}-1H-pyrazole-5-carboxylate | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)OCC)C(CN1N=C(N=N1)C(F)(F)F)=O | C15H11ClF3N7O3
